US04999377
A solution of chloroacetyl chloride (1.7 g) in dichloromethane was stirred in an ice-bath, while a solution of N,N-dimethylglycinamide (1.8 g) and triethylamine (2.2 ml) in dichloromethane (20 ml) was added over 20 minutes. The reaction mixture was stirred for 30 minutes and was then washed with water (2×10 ml), and dried over MgSO4. The solution was evaporated under reduced pressure. Thus was obtained N,N-dimethyl chloroacetylglycinamide (2.0 g) as a brown oil, which was used directly, and without further purification.

reactant | chloroacetyl chloride | 1.7 g | ClCC(=O)Cl | C2H2Cl2O
reactant | N,N-dimethylglycinamide | 1.8 g | CN(C(CN)=O)C | C4H10N2O
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N,N-dimethyl chloroacetylglycinamide | 2.0 g | CN(C(CNC(CCl)=O)=O)C | C6H11ClN2O2
